US06677351B2
To a solution of ethyl 5-bromonicotinate (1.02 g, 4.4 mmol) in diethyl ether (15 ml) at −30° C. was added a 3M solution of methyl magnesium bromide (4 ml, 12 mmol) in ether. The resulting slurry was then refluxed for 2 hours then cooled and quenched with an excess of 0.5M aqueous monobasic sodium phosphate and partitioned between ether and water. The product from the organic phase was chromatographed on silica gel eluting with a 2:1:2 mixture of ether, pentane and ammonia-saturated methylene chloride to afford the 3-Bromo-5-(1-hydroxy-1-methylethyl)pyridine compound as a yellow oil.

reactant | ethyl 5-bromonicotinate | 4.4 mmol, 1.02 g | BrC=1C=NC=C(C(=O)OCC)C1 | C8H8BrNO2
reactant | methyl magnesium bromide | 12 mmol, 4 ml | C[Mg]Br
reactant | diethyl ether | 15 ml | C(C)OCC | C4H10O
reactant | ether | CCOCC | C4H10O
product | 3-Bromo-5-(1-hydroxy-1-methylethyl)pyridine | BrC=1C=NC=C(C1)C(C)(C)O | C8H10BrNO
